### PR TITLE
[Merged by Bors] - chore: remove `Nat.bitwise'`

### PR DESCRIPTION
**Pull request by alexkeizer**
Building upon the proof that `Nat.bitwise` and `Nat.bitwise'` are equal (from #7410), this PR completely removes `bitwise'` and changes all uses to `bitwise` instead.

In particular, `land'/lor'/lxor'` are replaced with the `bitwise`-based equivalent operations in core, which have overriden optimized implementations in the compiler.

---

- [x] depends on: #7410

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Bitwise.lean [hunk 1]
```diff
@@ -48,33 +48,22 @@ set_option linter.deprecated false
 section
 variable {f : Bool → Bool → Bool}
 
-lemma bitwise'_bit' {f : Bool → Bool → Bool} (a : Bool) (m : Nat) (b : Bool) (n : Nat)
-    (ham : m = 0 → a = true) (hbn : n = 0 → b = true) :
-    bitwise' f (bit a m) (bit b n) = bit (f a b) (bitwise' f m n) := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:53]: Is there a version of this theorem for `bitwise`?

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:53]: There is `bitwise_bit`, which is a similar theorem, but with `f false false` as the hypothesis. This theorem was only added to support the now-removed proof of equality between the `bitwise`s.

I could bring it back with the alternate hypotheses, if you think that's usefull?

Comment (ChrisHughes24) [reply Mathlib/Data/Nat/Bitwise.lean:53]: I think it is useful, and we tend to have a rule that mathlib shouldn't lose theorems.

Comment (ChrisHughes24) [reply Mathlib/Data/Nat/Bitwise.lean:53]: I was hoping it wouldn't be too difficult to prove.

**Comment by eric-wieser** [comment]
Checking for removed `align`s:
```bash
git diff $(git merge-base origin/master HEAD) | grep -e '[+-]#align' | sort -k1 | sort -s -k2,2
```
<details>
<summary>gives</summary>

```diff
+#align int.ldiff Int.ldiff
-#align int.ldiff Int.ldiff'
+#align int.lxor Int.xor
-#align int.lxor Int.lxor'
+#align nat.bitwise Nat.bitwise
-#align nat.bitwise Nat.bitwise'
+#align nat.bitwise_bit Nat.bitwise_bit
-#align nat.bitwise_bit Nat.bitwise'_bit
-#align nat.bitwise_bit_aux Nat.bitwise'_bit_aux
+#align nat.bitwise_comm Nat.bitwise_comm
-#align nat.bitwise_comm Nat.bitwise'_comm
+#align nat.bitwise_swap Nat.bitwise_swap
-#align nat.bitwise_swap Nat.bitwise'_swap
+#align nat.bitwise_zero Nat.bitwise_zero
-#align nat.bitwise_zero Nat.bitwise'_zero
+#align nat.bitwise_zero_left Nat.bitwise_zero_left
-#align nat.bitwise_zero_left Nat.bitwise'_zero_left
+#align nat.bitwise_zero_right Nat.bitwise_zero_right
+#align nat.land Nat.land
-#align nat.land Nat.land'
+#align nat.land_assoc Nat.land_assoc
-#align nat.land_assoc Nat.land'_assoc
+#align nat.land_bit Nat.land_bit
-#align nat.land_bit Nat.land'_bit
+#align nat.land_comm Nat.land_comm
-#align nat.land_comm Nat.land'_comm
+#align nat.land_zero Nat.land_zero
-#align nat.land_zero Nat.land'_zero
+#align nat.ldiff Nat.ldiff
-#align nat.ldiff Nat.ldiff'
+#align nat.ldiff_bit Nat.ldiff_bit
-#align nat.ldiff_bit Nat.ldiff'_bit
+#align nat.lor Nat.lor
-#align nat.lor Nat.lor'
+#align nat.lor_assoc Nat.lor_assoc
-#align nat.lor_assoc Nat.lor'_assoc
+#align nat.lor_bit Nat.lor_bit
-#align nat.lor_bit Nat.lor'_bit
+#align nat.lor_comm Nat.lor_comm
-#align nat.lor_comm Nat.lor'_comm
+#align nat.lor_zero Nat.lor_zero
-#align nat.lor_zero Nat.lor'_zero
+#align nat.lt_lxor_cases Nat.lt_xor_cases
-#align nat.lt_lxor_cases Nat.lt_lxor'_cases
+#align nat.lxor Nat.xor
-#align nat.lxor Nat.lxor'
+#align nat.lxor_assoc Nat.xor_assoc
-#align nat.lxor_assoc Nat.lxor'_assoc
-#align nat.lxor_bit Nat.lxor'_bit
+#align nat.lxor_cancel_left Nat.xor_cancel_left
-#align nat.lxor_cancel_left Nat.lxor'_cancel_left
+#align nat.lxor_comm Nat.xor_comm
-#align nat.lxor_comm Nat.lxor'_comm
+#align nat.lxor_eq_zero Nat.xor_eq_zero
-#align nat.lxor_eq_zero Nat.lxor'_eq_zero
+#align nat.lxor_left_inj Nat.xor_left_inj
-#align nat.lxor_left_inj Nat.lxor'_left_inj
+#align nat.lxor_left_injective Nat.xor_left_injective
-#align nat.lxor_left_injective Nat.lxor'_left_injective
+#align nat.lxor_ne_zero Nat.xor_ne_zero
-#align nat.lxor_ne_zero Nat.lxor'_ne_zero
+#align nat.lxor_right_inj Nat.xor_right_inj
-#align nat.lxor_right_inj Nat.lxor'_right_inj
+#align nat.lxor_right_injective Nat.xor_right_injective
-#align nat.lxor_right_injective Nat.lxor'_right_injective
+#align nat.lxor_self Nat.xor_self
-#align nat.lxor_self Nat.lxor'_self
+#align nat.lxor_trichotomy Nat.xor_trichotomy
-#align nat.lxor_trichotomy Nat.lxor'_trichotomy
+#align nat.lxor_zero Nat.xor_zero
-#align nat.lxor_zero Nat.lxor'_zero
-#align nat.test_bit_bitwise Nat.testBit_bitwise'
+#align nat.test_bit_land Nat.testBit_land
-#align nat.test_bit_land Nat.testBit_land'
+#align nat.test_bit_ldiff Nat.testBit_ldiff
-#align nat.test_bit_ldiff Nat.testBit_ldiff'
+#align nat.test_bit_lor Nat.testBit_lor
-#align nat.test_bit_lor Nat.testBit_lor'
+#align nat.test_bit_lxor Nat.testBit_xor
-#align nat.test_bit_lxor Nat.testBit_lxor'
+#align nat.xor_bit Nat.xor_bit
+#align nat.zero_land Nat.zero_land
-#align nat.zero_land Nat.zero_land'
+#align nat.zero_lor Nat.zero_lor
-#align nat.zero_lor Nat.zero_lor'
+#align nat.zero_lxor Nat.zero_xor
-#align nat.zero_lxor Nat.zero_lxor'
+#align num.bitwise_to_nat Num.bitwise_to_nat
-#align num.bitwise_to_nat Num.bitwise'_to_nat
+#align num.land_to_nat Num.land_to_nat
-#align num.land_to_nat Num.land'_to_nat
+#align num.ldiff_to_nat Num.ldiff_to_nat
-#align num.ldiff_to_nat Num.ldiff'_to_nat
+#align num.lor_to_nat Num.lor_to_nat
-#align num.lor_to_nat Num.lor'_to_nat
+#align num.lxor_to_nat Num.xor_to_nat
-#align num.lxor_to_nat Num.lxor'_to_nat
```
</details>

There seems to be a few mistakes here, as they should be paired.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 2]
```diff
@@ -85,61 +74,67 @@ lemma bitwise_of_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
...
 @[simp]
-theorem lxor_bit : ∀ a m b n, xor (bit a m) (bit b n) = bit (bne a b) (xor m n) :=
+theorem ldiff_bit : ∀ a m b n, ldiff (bit a m) (bit b n) = bit (a && not b) (ldiff m n) :=
   bitwise_bit
+#align nat.ldiff_bit Nat.ldiff_bit
+
+@[simp]
+theorem xor_bit : ∀ a m b n, xor (bit a m) (bit b n) = bit (bne a b) (xor m n) :=
+  bitwise_bit
+#align nat.xor_bit Nat.xor_bit
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:107]:
```suggestion
#align nat.lxor_bit Nat.xor_bit
```
`nat.xor_bit` doesn't exist.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 3]
```diff
@@ -85,61 +74,67 @@ lemma bitwise_of_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
...
-    · contradiction
-    · simp only [div2_succ, cond, bodd_succ, Bool.not_not]
-      cases bodd n <;> simp
-  case hbn =>
-    obtain ⟨⟩ | m := m
-    · contradiction
-    · simp only [div2_succ, cond, bodd_succ, Bool.not_not]
-      cases bodd m <;> simp
-
-lemma bitwise'_eq_bitwise (f) : bitwise' f = bitwise f := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:104]: I think perhaps we should keep this as
```lean
lemma bitwise_eq_binaryRec :
  bitwise f =
    binaryRec (fun n => cond (f false true) n 0) fun a m Ia =>
      binaryRec (cond (f true false) (bit a m) 0) fun b n _ => bit (f a b) (Ia n)
```
what do you think @ChrisHughes24?

Comment (ChrisHughes24) [reply Mathlib/Data/Nat/Bitwise.lean:104]: I agree

File: Mathlib/Data/Nat/Bitwise.lean [hunk 4]
```diff
@@ -59,7 +59,6 @@ lemma bitwise_zero_right (n : Nat) : bitwise f n 0 = if f true false then n else
   simp only [ite_self, decide_False, Nat.zero_div, ite_true, ite_eq_right_iff]
   rintro ⟨⟩
   split_ifs <;> rfl
-#align nat.bitwise_zero_right Nat.bitwise_zero_right
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean]: This lemma actually exists in mathlib3, so we should keep the align.

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: Ah, I went by the mismatched diff you posted before. I guess the lemma got removed in the port, but it did exist before?

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: The only mismatch is now `nat.bitwise_bit_aux`. This is an auxiliary theorem which the new `Nat.bitwise_bit` no longer needs, so I removed it. Does the "mathlib should not lose theorems" rule also apply to such purely auxiliary results?

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean]: I have no idea what happened!

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean]: Removing auxiliary theorems is ok, but you should use `#noalign`

File: Mathlib/Data/Nat/Bitwise.lean (hunk 3 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:104]: I've brought back `bitwise_eq_binaryRec`. The proof is a bit messier than before, since I tried avoiding bringing back `bitwise'_of_ne` as an intermediary result, and instead used the lower level `binaryRec_of_ne_zero`.
```lean
lemma binaryRec_of_ne_zero {C : ℕ → Sort*} {z : C 0} {f n} (h : n ≠ 0) :
    binaryRec z f n = bit_decomp n ▸ f (bodd n) (div2 n) (binaryRec z f (div2 n))
```

I'd be curious to hear your thought about this proof. Is it OK, or should we bring back `bitwise'_of_ne_zero` (with the former definition of `bitwise'` inlined)?

File: Mathlib/Data/Nat/Bitwise.lean (hunk 4 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: Allright, I've added the noalign, it should match up now.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 5]
```diff
@@ -86,60 +75,124 @@ lemma bitwise_of_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
...
+  have h1 x :     (x + x) % 2 = 0   := by ring_nf; apply mul_mod_left
+  have h2 x : (x + x + 1) % 2 = 1   := by ring_nf; apply add_mul_mod_self_right
+  have h3 x :     (x + x) / 2 = x   := by ring_nf; apply mul_div_left _ zero_lt_two
+  have h4 x : (x + x + 1) / 2 = x   := by ring_nf; simp [add_mul_div_right]
+  cases a <;> cases b <;> simp [h1, h2, h3, h4] <;> split_ifs <;> simp_all
+#align nat.bitwise_bit Nat.bitwise_bit
+
+/-- An alternative for `bitwise_bit` which replaces the `f false false = false` assumption
+    with assumptions that neither `bit a m` nor `bit b n` are `0` -/
+lemma bitwise'_bit' {f : Bool → Bool → Bool} (a : Bool) (m : Nat) (b : Bool) (n : Nat)
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:91]:
```suggestion
lemma bitwise_bit' {f : Bool → Bool → Bool} (a : Bool) (m : Nat) (b : Bool) (n : Nat)
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 6]
```diff
@@ -18,7 +18,7 @@ import Mathlib.Tactic.Ring
 
 In the first half of this file, we provide theorems for reasoning about natural numbers from their
 bitwise properties. In the second half of this file, we show properties of the bitwise operations
-`lor'`, `land'` and `lxor'`, which are defined in core.
+`lor`, `land` and `xor'`, which are defined in core.
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:21]: I assume you meant to drop the prime too:
```suggestion
`lor`, `land` and `xor`, which are defined in core.
```

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:21]: Yes I did. These primes are easy to overlook, thanks for double-checking

File: Mathlib/Data/Nat/Bitwise.lean (hunk 1 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:53]: It was not too bad, we now have a proof of `bitwise_bit'` as well

**Comment by tobiasgrosser** [comment]
This PR is green again. AFAIU all review comments have been addressed and there is one open question for @eric-wieser. Thank you all for pushing this forward so nicely.

File: Mathlib/Logic/Basic.lean [hunk 7]
```diff
@@ -697,7 +697,6 @@ protected theorem Decidable.not_forall {p : α → Prop} [Decidable (∃ x, ¬p
    not_forall_of_exists_not⟩
 #align decidable.not_forall Decidable.not_forall
 
-@[simp]
```
Comment (eric-wieser) [inline Mathlib/Logic/Basic.lean:700]: I don't think this change belongs in this PR; I'm going to revert it and see what breaks.

Comment (alexkeizer) [reply Mathlib/Logic/Basic.lean]: I don't remember changing this file, it might be part of a merge gone wrong?

File: Mathlib/Data/Nat/Bitwise.lean [hunk 8]
```diff
@@ -48,98 +48,167 @@ set_option linter.deprecated false
...
+    split_ifs at hc
+    · simp at hc
+    · cases x
+      · specialize hi rfl
+        contradiction
+      · simp at hc
+  have ham' := this ham
+  have hbn' := this hbn
+  simp [ham', hbn', ←div2_val, div2_bit]
+  conv_rhs => simp [bit, bit1, bit0, Bool.cond_eq_ite]
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: Done

File: Mathlib/Data/Nat/Bitwise.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:104]: I think this is fine

File: Mathlib/Logic/Basic.lean (hunk 7 above)
Comment (tobiasgrosser) [reply Mathlib/Logic/Basic.lean]: Indeed. That was a mistake on my side.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 9]
```diff
@@ -158,6 +176,50 @@ theorem bit_eq_zero {n : ℕ} {b : Bool} : n.bit b = 0 ↔ n = 0 ∧ b = false :
...
+  | z => simp only [bitwise_zero_left, binaryRec_zero, Bool.cond_eq_ite]
+  | f xb x hxb ih =>
+    rw [←bit_ne_zero_iff] at hxb
+    simp_rw [binaryRec_of_ne_zero hxb, bodd_bit, div2_bit, eq_rec_constant]
+    induction y using binaryRec' with
+    | z => simp only [bitwise_zero_right, binaryRec_zero, Bool.cond_eq_ite]
+    | f yb y hyb =>
+      rw [←bit_ne_zero_iff] at hyb
+      simp_rw [binaryRec_of_ne_zero hyb, bitwise_of_ne_zero hxb hyb, bodd_bit, ←div2_val, div2_bit,
+        eq_rec_constant, ih]
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:221]: On second thoughts, nevermind

**Comment by eric-wieser** [comment]
@ChrisHughes24, do you want one final look?

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Data/Nat/Bitwise.lean [hunk 10]
```diff
@@ -158,6 +177,39 @@ theorem bit_eq_zero {n : ℕ} {b : Bool} : n.bit b = 0 ↔ n = 0 ∧ b = false :
...
+  | z => simp only [bitwise_zero_left, binaryRec_zero, Bool.cond_eq_ite]
+  | f xb x hxb ih =>
+    rw [←bit_ne_zero_iff] at hxb
+    simp_rw [binaryRec_of_ne_zero _ _ hxb, bodd_bit, div2_bit, eq_rec_constant]
+    induction y using binaryRec' with
+    | z => simp only [bitwise_zero_right, binaryRec_zero, Bool.cond_eq_ite]
+    | f yb y hyb =>
+      rw [←bit_ne_zero_iff] at hyb
+      simp_rw [binaryRec_of_ne_zero _ _ hyb, bitwise_of_ne_zero hxb hyb, bodd_bit, ←div2_val,
+        div2_bit, eq_rec_constant, ih]
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:211]: I replaced this proof with one using `binaryRec'`, now that we have `bitwise_bit` proven first.

File: Mathlib/Data/Num/Lemmas.lean [hunk 11]
```diff
@@ -883,31 +883,23 @@ theorem le_iff_cmp {m n} : m ≤ n ↔ cmp m n ≠ Ordering.gt :=
   not_congr <| lt_iff_cmp.trans <| by rw [← cmp_swap]; cases cmp m n <;> exact by decide
 #align num.le_iff_cmp Num.le_iff_cmp
 
-theorem bitwise'_to_nat {f : Num → Num → Num} {g : Bool → Bool → Bool} (p : PosNum → PosNum → Num)
+theorem bitwise_to_nat {f : Num → Num → Num} {g : Bool → Bool → Bool} (p : PosNum → PosNum → Num)
```
Comment (ChrisHughes24) [inline Mathlib/Data/Num/Lemmas.lean:886]:
```suggestion
theorem bitwise_toNat {f : Num → Num → Num} {g : Bool → Bool → Bool} (p : PosNum → PosNum → Num)
```
I think this is the correct name if it's about `Num.toNat` or something. And the name usually describes the LHS, so maybe swap the direction of the equality.

File: Mathlib/Data/Num/Lemmas.lean [hunk 12]
```diff
@@ -919,38 +911,37 @@ theorem bitwise'_to_nat {f : Num → Num → Num} {g : Bool → Bool → Bool} (
...
     all_goals
-      rw [← show ∀ n : PosNum, ↑(p m n) = Nat.bitwise' g ↑m ↑n from IH]
+      rw [← show ∀ n : PosNum, ↑(p m n) = Nat.bitwise g ↑m ↑n from IH]
       rw [← bit_to_nat, pbb]
-#align num.bitwise_to_nat Num.bitwise'_to_nat
+#align num.bitwise_to_nat Num.bitwise_to_nat
 
 @[simp, norm_cast]
-theorem lor'_to_nat : ∀ m n : Num, ↑(m ||| n) = Nat.lor' m n := by
+theorem lor_to_nat : ∀ m n : Num, ↑(m ||| n) = Nat.lor m n := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Num/Lemmas.lean:924]:
```suggestion
theorem toNat_lor : ∀ m n : Num, ↑(m ||| n) = Nat.lor m n := by
```
This is just correcting other people's mistakes I know, but we might as well tidy it up, here and everywhere else.

Comment (eric-wieser) [reply Mathlib/Data/Num/Lemmas.lean:924]: I think we should do this in a follow-up PR, where we also fix this to
```suggestion
theorem toNat_lor : ∀ m n : Num, ↑(m ||| n) = m ||| n := by
```

Comment (ChrisHughes24) [reply Mathlib/Data/Num/Lemmas.lean:924]: okay. I'll let you do the merging, but I approve.

**Comment by eric-wieser** [comment]
bors merge
